US06846958B2
2,4-Dibenzyloxybenzoic acid was reacted with oxalyl chloride in toluene and DMF at 0-25° C. to give an acid chloride. The acid chloride was reacted with aqueous ammonia in methylene chloride to yield 87% (over 2 steps) of 2,4-dibenzyloxybenzamide. 2,4-Dibenzyloxybenzamide was reacted with triethyloxonium hexafluorophosphate in methylene chloride to yield 69% of ethyl 2,4-dibenzyloxybenzimidate. The ethyl 2,4-dibenzyloxybenzimidate was hydrogenated over a palladium/carbon catalyst with 1 atmosphere of hydrogen gas in ethanol, to yield 75% of ethyl 2,4-dihydroxybenzimidate. The overall yield for the reaction sequence was 34% for six steps.

reactant | 2,4-Dibenzyloxybenzamide | C(C1=CC=CC=C1)OC1=C(C(=O)N)C=CC(=C1)OCC1=CC=CC=C1 | C21H19NO3
reactant | triethyloxonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.C(C)[O+](CC)CC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl 2,4-dibenzyloxybenzimidate | 69% | C(C1=CC=CC=C1)OC1=C(C(OCC)=N)C=CC(=C1)OCC1=CC=CC=C1 | C23H23NO3
